US08809534B2
To a stirred solution of methyl 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]thieno[3,2-b]pyridine-2-carboxylate (20 mg, 0.046 mmol) in THF/MeOH (5 ml/5 ml) was added 1M NaOH (2.0 ml, 2.0 mmol). The mixture was heated at 70° C. for 30 minutes, cooled to room temperature and poured into 50 ml of water. 1M HCl was added until pH=4 and the resulting precipitates were filtered, washed with water and dried in vacuo to give 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]thieno[3,2-b]pyridine-2-carboxylic acid.

reactant | methyl 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]thieno[3,2-b]pyridine-2-carboxylate | 0.046 mmol, 20 mg | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(C=C1)C1=C2C(=NC=C1)C=C(S2)C(=O)OC | C23H18FN3O3S
reactant | NaOH | 2.0 mmol, 1M, 2.0 ml | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | HCl | 1M | Cl | ClH
solvent | THF MeOH | 5 ml | C1CCOC1.CO
product | 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]thieno[3,2-b]pyridine-2-carboxylic acid | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(C=C1)C1=C2C(=NC=C1)C=C(S2)C(=O)O | C22H16FN3O3S
